US08013186B2
Synthesis of N-(1-cyanocyclopropyl)-3-cyclopropylmethanesulfonyl-2(R)-[2,2-difluoro-2-(4-fluoro-phenoxy)-1(S)-(4-fluorophenyl)ethylamino]propionamide
To a stirred mixture of 3-cyclopropylmethanesulfonyl-2(R)-[2,2-difluoro-2-(4-fluoro-phenoxy)-1(S)-(4-fluorophenyl)ethylamino]propionic acid (0.2 g, 0.42 mmol) and 1-aminocyclopropanecarbonitrile hydrochloride (0.060 g, 0.5 mmol) in DMF (3 ml), HATU (0.16 g, 0.42 mmol) and diisopropylethylamine (0.183 ml, 1 mmol) was added. After stirring overnight at room temperature, the reaction mixture was diluted with ethyl acetate and washed with water, sat. NaHCO3 and brine. After drying over sodium sulfate, the solvent was evaporated and the residue was purified by flash chromatography, using ethyl acetate/hexanes (1/1) as eluent to give the title compound as a white solid (0.09 g, 39%). 1HNMR (DMSO-d6): δ 9.01 (1H, s), 7.47 (2H, m), 7.21 (2H, m), 7.13 (2H, m), 4.29 (1H, q), 3.74 (1H, m), 3.4 (2H, m), 3.19 (3H, m), 1.36 (2H, m), 1.10 (1H, m), 1.00 (1H, m), 0.72 (1H, m), 0.57 (2H, m), 0.30 (2H, m). LC/MS, M+1: 540.3; M−1: 538.3.

reactant | 3-cyclopropylmethanesulfonyl-2(R)-[2,2-difluoro-2-(4-fluoro-phenoxy)-1(S)-(4-fluorophenyl)ethylamino]propionic acid | 0.42 mmol, 0.2 g | C1(CC1)CS(=O)(=O)C[C@@H](C(=O)O)N[C@H](C(OC1=CC=C(C=C1)F)(F)F)C1=CC=C(C=C1)F | C21H21F4NO5S
reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 0.5 mmol, 0.060 g | Cl.NC1(CC1)C#N
reactant | HATU | 0.42 mmol, 0.16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1 mmol, 0.183 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-cyanocyclopropyl)-3-cyclopropylmethanesulfonyl-2(R)-[2,2-difluoro-2-(4-fluoro-phenoxy)-1(S)-(4-fluorophenyl)ethylamino]propionamide | 0.09 g, 39% | C(#N)C1(CC1)NC([C@H](CS(=O)(=O)CC1CC1)N[C@H](C(OC1=CC=C(C=C1)F)(F)F)C1=CC=C(C=C1)F)=O | C25H25F4N3O4S
